US06664249B1
A1. Methyl 4-Bromomethyl-3-chlorobenzoate
To a solution of methyl 3-chloro-4-methylbenzoate (5.0 g, 27.1 mmol) in carbon tetrachloride (50 ml) were added NBS (5.8 g, 32.0 mmol) and AIBN (0.442 g, 2.70 mmol). The mixture was stirred at reflux for 18 h. The mixture was allowed to cool to room temperature and then concentrated in vacuo. The residue was purified by flash chromatography on silica (eluant EtOAc:pet. ether 0:100 to 5:95); yield 5.96 g (84%).

reactant | methyl 3-chloro-4-methylbenzoate | 27.1 mmol, 5.0 g | ClC=1C=C(C(=O)OC)C=CC1C | C9H9ClO2
reactant | NBS | 32.0 mmol, 5.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 2.70 mmol, 0.442 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 4-Bromomethyl-3-chlorobenzoate | BrCC1=C(C=C(C(=O)OC)C=C1)Cl | C9H8BrClO2
